US07012075B2
Triisopropylsilyl 4-[3′-(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutoxy)[1,1′-biphenyl]-4-yl]-1-piperazinecarboxylate (365 mg, 0.6 mmoles) in 8 mL of tetrahydrofuran was treated with tetrabutylammonium fluoride (0.75 mL, 1 M in THF, 0.75 mmoles) at 0° C. until the disappearance of the starting material was observed by TLC. The reaction was diluted with diethyl ether, ethyl acetate, water and sat. aq. sodium bicarbonate. The phases were separated, the organic phase washed with brine and dried over sodium sulfate. After concentration under reduced pressure, the residue was purified by flash chromatography (1% sat. aqueous ammonium hydroxide, 9% methanol, 90% dichloromethane) to afford N-(cyanomethyl)-4-methyl-2-{[4′-(1-piperazinyl)[1,1′-biphenyl]-3-yl]oxy}pentanamide. MS (−ESI): 405.3 [M−1]−.

reactant | Triisopropylsilyl 4-[3′-(1-{[(cyanomethyl)amino]carbonyl}-3-methylbutoxy)[1,1′-biphenyl]-4-yl]-1-piperazinecarboxylate | 0.6 mmoles, 365 mg | C(#N)CNC(=O)C(CC(C)C)OC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)O[Si](C(C)C)(C(C)C)C(C)C | C34H50N4O4Si
reactant | tetrabutylammonium fluoride | 0.75 mmoles, 1 M, 0.75 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(cyanomethyl)-4-methyl-2-{[4′-(1-piperazinyl)[1,1′-biphenyl]-3-yl]oxy}pentanamide | C(#N)CNC(C(CC(C)C)OC=1C=C(C=CC1)C1=CC=C(C=C1)N1CCNCC1)=O | C24H30N4O2
